US08492401B2
Oxalyl chloride (67.2 mmol, 5.9 mL) was slowly added to a room temperature solution of 5-(3-methoxypropyl)-2-phenylthiazole-4-carboxylate (22.4 mmol, 6.2 g) in CH2Cl2 (100 mL). 3 drops of DMF were added and the reaction became homogeneous over ˜20 min. The reaction was stirred for 3 h, then concentrated under reduced pressure. The crude product was dissolved in CH2Cl2 (150 mL) and concentrated under reduced pressure. The crude product was dissolved in EtOAc (150 mL), washed with brine (2×100 mL), dried (MgSO4), and concentrated under reduced pressure to give 5-(3-methoxypropyl)-2-phenylthiazole-4-carbonyl chloride as a tan solid (6.6 g, 99% yield).

reactant | Oxalyl chloride | 67.2 mmol, 5.9 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-(3-methoxypropyl)-2-phenylthiazole-4-carboxylate | 22.4 mmol, 6.2 g | COCCCC1=C(N=C(S1)C1=CC=CC=C1)C(=O)[O-]
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
product | 5-(3-methoxypropyl)-2-phenylthiazole-4-carbonyl chloride | 6.6 g, 99% yield | COCCCC1=C(N=C(S1)C1=CC=CC=C1)C(=O)Cl | C14H14ClNO2S
